US04713387
In 10 ml of methylene chloride was dissolved 1.0 g of 2-[4-(pyridin-3-ylmethyl)phenyl]ethanol, and 980 mg of p-toluene sulfonic acid monohydrate was added thereto with ice-cooling. To the resulting solution was added 2.7 g of ethyl diazoacetate with ice-cooling, after which 700 mg of boron trifluoridediethyl ether complex was dropped into the solution. The resulting mixture was subjected to reaction at the same temperature for one hour. Subsequently, 20 ml of water and 20 ml of methylene chloride were added to the reaction mixture, and the pH thereof was adjusted to 8 with 1N aqueous sodium hydroxide solution, after which the organic layer was separated, washed successively with 20 ml of water and 20 ml of a saturated aqueous sodium chloride solution, and then dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluent: toluene:ethyl acetate (1:1 by volume)], to obtain 220 mg (yield 15.7%) of oily ethyl 2-[4-(pyridin-3-ylmethyl)phenyl]ethyloxyacetate.

reactant | 2-[4-(pyridin-3-ylmethyl)phenyl]ethanol | 1.0 g | N1=CC(=CC=C1)CC1=CC=C(C=C1)CCO | C14H15NO
reactant | p-toluene sulfonic acid monohydrate | 980 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl diazoacetate | 2.7 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | ethyl 2-[4-(pyridin-3-ylmethyl)phenyl]ethyloxyacetate | 220 mg, yield 15.7% | N1=CC(=CC=C1)CC1=CC=C(C=C1)CCOCC(=O)OCC | C18H21NO3
